US06211215B1
To a solution of methyl 2-(2-thienyl)-5-benzoxazolecarboxylate (1.50 g) in tetrahydrofuran (30 ml) was slowly added lithium aluminum hydride (220 mg) at 0° C., stirred for 30 minutes. To the reaction mixture was added water, which was made acidic with 1N-hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure. The residue was subjected to a silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane (4:1, v/v), 2-(2-thienyl)-5-benzoxazolyl methanol (1.03 g, 77%) was obtained. The recrystalization from ethyl acetate-hexane gave colorless needles, mp 158-159° C.

reactant | methyl 2-(2-thienyl)-5-benzoxazolecarboxylate | 1.50 g | S1C(=CC=C1)C=1OC2=C(N1)C=C(C=C2)C(=O)OC | C13H9NO3S
reactant | lithium aluminum hydride | 220 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(2-thienyl)-5-benzoxazolyl methanol | 1.03 g, 77% | S1C(=CC=C1)C=1OC2=C(N1)C=C(C=C2)CO | C12H9NO2S
